US05446044
1,1-Dimethylethyl [[3-[1-(phenylmethyl)-3-pyrrolidinyl]phenyl]methyl]carbamate
A solution of 3-[1-(phenylmethyl)-3-pyrrolidinyl]benzenemethanamine (8.00 g, 30.0 retool), di-tert-butyl dicarbonate (7.86 g, 36.0 mmol) and diisopropylethylamine (4.65 g, 36.0 mmol) in dichloromethane (300 mL) was stirred at room temperature for 18 hours. The solvent was removed and the residue was chromatographed (hexanes-ethyl acetate 1:1) to give the title compound (9.50 g, 86%) as a colorless oil.

reactant | 3-[1-(phenylmethyl)-3-pyrrolidinyl]benzenemethanamine | 8.00 g | C1(=CC=CC=C1)CN1CC(CC1)C=1C=C(C=CC1)CN | C18H22N2
reactant | di-tert-butyl dicarbonate | 36.0 mmol, 7.86 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 36.0 mmol, 4.65 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl [[3-[1-(phenylmethyl)-3-pyrrolidinyl]phenyl]methyl]carbamate | 9.50 g, 86% | C1(=CC=CC=C1)CN1CC(CC1)C=1C=C(C=CC1)CNC(OC(C)(C)C)=O | C23H30N2O2
